US05021568
A mixture of 25.5 g (0.3 mol) of 2-pyrrolidone, 33.6 g (0.6 mol) of potassium hydroxide, 150 ml of dimethylsulphoxide and 100 ml of benzene are refluxed under stirring till a complete dispergation of the alkali. Dropwise added to the mixture are 73.5 g (0.6 mol) of ethylchloroacetate and heating at reflux is continued for additional 2 hours, whereafter the temperature of the mixture is brought to room temperature. The salt residue is filtered-off, the mixture is subjected to fractionation to give 35.7 g (52%) of (2-oxo-1-pyrrolidinyl)-acetic acid carboethoxymethyl ester, b.p. 195°-198° C. (9 mm Hg), nD20 =1.4706.

reactant | 2-pyrrolidone | 0.3 mol, 25.5 g | N1C(CCC1)=O | C4H7NO
reactant | potassium hydroxide | 0.6 mol, 33.6 g | [OH-].[K+]
reactant | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
reactant | ethylchloroacetate | 0.6 mol, 73.5 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | (2-oxo-1-pyrrolidinyl)-acetic acid carboethoxymethyl ester | 35.7 g, 52% | C(=O)(OCC)COC(CN1C(CCC1)=O)=O | C10H15NO5
